US08957068B2
A solution of (S)-(4-(1-aminoethyl)phenyl)methanol hydrochloride (4.0301 g, 21.47 mmol, purchased from NetChem), (S)-3-(2-fluoropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (5.3648 g, 23.82 mmol, 1.11 equiv) and DIPEA (38.0 mL, 218 mmol, 10.1 equiv) in DMSO (40 mL) was heated at 110° C. for 135 min. The reaction mixture was diluted with EtOAc (200 mL) and washed with water (200 mL). After separation, the aqueous phase was washed with EtOAc (2×150 mL). Combined organics were dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/heptane 30 to 100%) provided (S)-3-(2-((S)-1-(4-(hydroxymethyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (6.42 g) in 84% yield.

reactant | (S)-(4-(1-aminoethyl)phenyl)methanol hydrochloride | 21.47 mmol, 4.0301 g | Cl.N[C@@H](C)C1=CC=C(C=C1)CO
reactant | (S)-3-(2-fluoropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 23.82 mmol, 5.3648 g, 1.11 equiv | FC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12FN3O2
reactant | DIPEA | 218 mmol, 38.0 mL, 10.1 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (S)-3-(2-((S)-1-(4-(hydroxymethyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 6.42 g, 84% yield | OCC1=CC=C(C=C1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C19H24N4O3
